US07691850B2
b) 1,1-dimethylethyl(3Z,4R)-3-(hydroxyimino)-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate
Dissolve 1,1-dimethylethyl(4R)-3-oxo-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate (0.87 g, 2.49 mmol) in 5:1 MeOH/H O (10 mL). Add in hydroxylamine HCl (0.177 g, 2.54 mmol) and sodium acetate (2.04 g, 24.9 mmol). The mixture was heated to reflux and allowed to stir 3 hours. After the reaction was complete the solution was concentrated under reduced pressure and extracted with CHCl3 (3×). The organic layer was washed with 0.5 M HCl and brine. The solution was dried over Na2SO4, and evaporated to yield an oil. (0.90 g, quant). LCMS: m/z 364.6 (MH+).

reactant | 1,1-dimethylethyl(4R)-3-oxo-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate | 2.49 mmol, 0.87 g | O=C1CN(C[C@H]1CNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H24N2O5
reactant | hydroxylamine HCl | 2.54 mmol, 0.177 g | Cl.NO
reactant | sodium acetate | 24.9 mmol, 2.04 g | C(C)(=O)[O-].[Na+]
solvent | MeOH | CO | CH4O
product | 1,1-dimethylethyl(3Z,4R)-3-(hydroxyimino)-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate | O\N=C\1/CN(C[C@H]1CNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H25N3O5
